US04003965
2-Ethyl-1-ureidohexylphosphonic acid
This compound is prepared from urea, tris(2-chloroethyl) phosphite, 2-ethylhexaldehyde, and water under conditions similar to those used for the preparation of 1-ureidopropyl-phosphonic acid in Example 4. The product is obtained as a white solid: mp 206° C dec; 31P nmr (CD3SOCD3) -23.2 ppm; 1H nmr δ8.5 (broad, 4, HO and NH2), 6.2 (d, 1, J = 8Hz, NH), 4.3 (d, of d, 1, J = 8 and 20Hz, PCH), 1.3 and 0.9 (m, 15); acidity 2.00 equiv/mole, pK1 = 3.50, pK2 = 9.08.

reactant | urea | NC(=O)N | CH4N2O
reactant | tris(2-chloroethyl) phosphite | P(OCCCl)(OCCCl)OCCCl | C6H12Cl3O3P
reactant | 2-ethylhexaldehyde | C(C)C(C=O)CCCC | C8H16O
reactant | 1-ureidopropyl-phosphonic acid | N(C(=O)N)C(CC)P(O)(O)=O | C4H11N2O4P
solvent | water | O | H2O
product | 2-Ethyl-1-ureidohexylphosphonic acid | C(C)C(C(NC(=O)N)P(O)(O)=O)CCCC | C9H21N2O4P
